US05055230
6-Hexadecyloxymethyl-1,4-dioxan-2-one
Prepared from the glycidyl ether of hexadecanol.

reactant | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
reactant | hexadecanol | C(CCCCCCCCCCCCCCC)O | C16H34O
product | 6-Hexadecyloxymethyl-1,4-dioxan-2-one | C(CCCCCCCCCCCCCCC)OCC1COCC(O1)=O | C21H40O4
